US05482965
7.46 g of 2-nitro-2-ethyl-1,3-propanediol, 8.61 g of butyl levulinate, 50 mg of p-toluenesulfonic acid in 50 ml of toluene was refluxed until no more water separated. The reaction mixture was cooled, washed with 2% sodium bicarbonate and water, dried and concentrated to give 13.65 g of 2-carbobutoxyethyl-2-methyl-5-nitro-5-ethyl-1,3-dioxane as a light yellow oil. This was dissolved in 50 ml of ethanol and hydrogenated over 1 g Raney Nickel catalyst at 60 under pressure. Distillation of the crude material at 160° C./3mm gave 11 g of the product.

reactant | 2-nitro-2-ethyl-1,3-propanediol | 7.46 g | [N+](=O)([O-])C(CO)(CO)CC | C5H11NO4
reactant | butyl levulinate | 8.61 g | C(CCC(=O)C)(=O)OCCCC | C9H16O3
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-carbobutoxyethyl-2-methyl-5-nitro-5-ethyl-1,3-dioxane | 13.65 g | C(=O)(OCCCC)CCC1(OCC(CO1)(CC)[N+](=O)[O-])C | C14H25NO6
